* File: AO22X1.pex.netlist.pex
* Created: Mon Jun  5 11:20:30 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AO22X1%D_VDD 1 8 12 18 24 38 39 44 50 51 52 53 54
c40 54 0 0.274891f
c41 53 0 0.276054f
c42 52 0 0.258563f
c43 51 0 0.244808f
c44 50 0 0.298166f
c45 44 0 0.0701213f
c46 41 0 0.0701213f
c47 39 0 0.058482f
c48 38 0 0.0332699f
c49 37 0 0.0701213f
c50 35 0 0.0701213f
c51 33 0 0.0701213f
c52 24 0 0.277406f
c53 18 0 0.444059f
c54 12 0 0.630737f
c55 8 0 0.286588f
c56 4 0 0.239598f
c57 1 0 0.245551f
r58 53 72 0.0484745
r59 42 54 0.203056
r60 42 44 0.0120155
r61 40 53 0.203056
r62 40 41 0.0120155
r63 39 72 0.122188
r64 38 53 0.00472222
r65 38 39 0.0437522
r66 36 52 0.306944
r67 36 37 0.0120155
r68 34 51 0.250278
r69 34 35 0.0120155
r70 32 50 0.250278
r71 32 33 0.0120155
r72 28 44 0.0329425
r73 25 41 0.0329425
r74 24 44 0.0329425
r75 19 37 0.0329425
r76 18 41 0.0329425
r77 13 35 0.0329425
r78 12 37 0.0329425
r79 9 33 0.0329425
r80 8 35 0.0329425
r81 4 33 0.0329425
r82 1 28 0.07225
r83 1 24 0.12325
r84 1 25 0.12325
r85 1 18 0.20825
r86 1 19 0.15725
r87 1 12 0.03825
r88 1 13 0.2125
r89 1 8 0.119
r90 1 9 0.1275
r91 1 4 0.068
.ends

.subckt PM_AO22X1%N$12 2 5 11 12 13 15 16 17 20 21 22 23 25 32 33 35 41
c63 41 0 0.0680146f
c64 35 0 0.0794405f
c65 33 0 0.0224107f
c66 32 0 0.40712f
c67 25 0 0.0888151f
c68 23 0 0.0110673f
c69 22 0 0.0175791f
c70 21 0 0.0232572f
c71 20 0 0.0843476f
c72 17 0 0.00467704f
c73 16 0 0.107266f
c74 15 0 0.0366002f
c75 13 0 0.51334f
c76 12 0 0.455065f
c77 5 0 0.252692f
c78 2 0 0.103164f
r79 35 41 0.0566888
r80 32 38 34.2233
r81 32 37 16.3661
r82 31 32 3.5
r83 25 33 0.325833
r84 23 33 0.0519666
r85 22 31 0.0210549
r86 22 23 0.0613889
r87 20 25 0.0474919
r88 20 21 0.0991667
r89 18 21 0.0474919
r90 18 41 0.34
r91 16 31 0.0289504
r92 16 17 0.410833
r93 15 17 0.0474919
r94 15 29 0.113333
r95 12 13 26.0417
r96 12 38 147.917
r97 11 13 41.6667
r98 5 37 52.0833
r99 2 29 0.0566888
.ends

.subckt PM_AO22X1%D_GND 1 6 7 8 9 27 30 38 41 49
c56 49 0 0.58895f
c57 41 0 0.366922f
c58 38 0 0.305848f
c59 31 0 0.0701213f
c60 30 0 0.314858f
c61 28 0 0.0701213f
c62 27 0 0.551952f
c63 9 0 0.151575f
c64 8 0 0.177681f
c65 7 0 0.173559f
c66 6 0 0.171914f
c67 1 0 0.138952f
r68 30 31 0.0329425
r69 29 31 0.0329425
r70 27 28 0.0329425
r71 26 28 0.0329425
r72 14 31 0.0120155
r73 10 28 0.0120155
r74 9 22 0.146389
r75 8 18 0.155833
r76 7 14 0.146389
r77 6 10 0.174722
r78 1 22 0.0120155
r79 1 41 0.0329425
r80 1 45 0.0329425
r81 1 18 0.0120155
r82 1 38 0.0329425
r83 1 42 0.0329425
r84 1 49 0.1445
r85 1 45 0.221
r86 1 41 0.2465
r87 1 42 0.1105
r88 1 38 0.221
r89 1 29 0.0595
r90 1 30 0.136
r91 1 26 0.136
r92 1 27 0.1955
.ends

.subckt PM_AO22X1%AND_O2 2 5 8 11 15 18 23 29 31 34 38
c45 38 0 0.339883f
c46 34 0 0.193608f
c47 31 0 0.0884568f
c48 29 0 0.0272811f
c49 23 0 0.172807f
c50 18 0 0.066178f
c51 15 0 0.124934f
c52 11 0 0.336028f
c53 8 0 0.472738f
c54 5 0 0.328961f
c55 2 0 0.10148f
r56 31 38 0.0566888
r57 24 34 12.5
r58 23 24 7
r59 21 29 0.0004726
r60 21 23 0.184167
r61 19 29 0.0497087
r62 19 38 0.85
r63 18 29 0.0497087
r64 17 28 0.019112
r65 17 18 0.134583
r66 13 15 16.6667
r67 9 15 1.46822
r68 9 11 87.5
r69 8 13 1.46822
r70 7 34 6.3741
r71 7 8 160.417
r72 3 34 6.3741
r73 3 5 77.0833
r74 2 28 0.0352071
.ends

.subckt PM_AO22X1%N$21 2 3 5 9 13 14 16 20 25 27 29 32
c57 32 0 0.16309f
c58 29 0 0.0563285f
c59 27 0 0.0339508f
c60 25 0 0.0274036f
c61 20 0 0.109383f
c62 16 0 0.0692666f
c63 14 0 0.0214498f
c64 13 0 0.0518663f
c65 9 0 0.22625f
c66 5 0 0.811439f
c67 3 0 0.453691f
c68 2 0 0.0700031f
r69 27 29 0.0451117
r70 27 28 7
r71 20 32 0.0519666
r72 18 25 0.0325967
r73 18 29 0.130333
r74 16 25 0.0123315
r75 16 24 0.481667
r76 13 25 0.0325967
r77 13 14 0.141667
r78 11 14 0.0474919
r79 11 20 0.48875
r80 7 28 36.1244
r81 7 9 37.5
r82 3 28 15.9786
r83 3 5 218.75
r84 2 24 0.0519666
.ends

.subckt PM_AO22X1%OUT 2 8 10 11 15 22 25
c31 25 0 0.145802f
c32 22 0 0.0935439f
c33 15 0 0.0555116f
c34 11 0 0.0658921f
c35 10 0 0.039353f
c36 8 0 0.0259398f
c37 2 0 0.0630711f
r38 22 25 0.0566888
r39 13 15 0.0920833
r40 12 25 0.432083
r41 10 12 0.0483471
r42 10 11 0.0560744
r43 8 15 0.00499195
r44 8 20 0.085
r45 3 13 0.00499195
r46 3 11 0.262083
r47 2 20 0.0519666
.ends

.subckt PM_AO22X1%AND_O1 2 5 10 11 12 14 18 27 30 31 37
c66 37 0 0.0846483f
c67 31 0 0.214496f
c68 30 0 0.10151f
c69 27 0 0.0565341f
c70 18 0 0.0453311f
c71 14 0 0.239242f
c72 12 0 0.0781349f
c73 11 0 0.223874f
c74 10 0 0.146833f
c75 5 0 0.957463f
c76 2 0 0.174485f
r77 30 37 0.0566888
r78 25 27 0.0920833
r79 21 31 12.5
r80 20 21 7
r81 18 27 0.00499195
r82 17 24 0.0421785
r83 17 18 0.495833
r84 15 25 0.00499195
r85 15 37 0.269167
r86 13 14 29.7381
r87 11 31 6.3741
r88 11 12 75
r89 10 13 37.5
r90 7 12 13.9682
r91 7 10 25
r92 5 14 293.75
r93 2 24 0.0258971
r94 2 20 0.0863236
.ends

.subckt PM_AO22X1%N$2 2 3 5 9 11 14 16 23 26 29 36
c62 36 0 0.0703915f
c63 29 0 0.0743675f
c64 26 0 0.0276407f
c65 23 0 0.0514987f
c66 18 0 0.0944148f
c67 16 0 0.0318362f
c68 14 0 0.0587978f
c69 11 0 0.0728801f
c70 9 0 0.213761f
c71 5 0 0.785335f
c72 3 0 0.477386f
c73 2 0 0.114898f
r74 28 29 0.134583
r75 24 26 0.113333
r76 20 23 0.0519666
r77 20 21 7
r78 18 29 0.00499195
r79 18 34 0.184167
r80 16 26 0.00499195
r81 15 28 0.00499195
r82 15 16 0.425
r83 14 36 0.0566888
r84 13 24 0.00499195
r85 13 14 0.40375
r86 11 28 0.0425
r87 11 23 0.255
r88 7 21 33.6299
r89 7 9 37.5
r90 3 21 16.6923
r91 3 5 200
r92 2 34 0.0566888
.ends

.subckt PM_AO22X1%C 4 5 6 7 8 9 11 12 14 16 19 22
c32 22 0 0.270901f
c33 19 0 0.149959f
c34 16 0 0.0559788f
c35 12 0 0.229706f
c36 9 0 0.20906f
c37 8 0 0.0921721f
c38 7 0 0.172897f
c39 6 0 0.08878f
c40 5 0 0.143933f
c41 4 0 0.414927f
r42 19 23 15.2843
r43 19 22 15.2843
r44 16 19 7
r45 12 14 41.6667
r46 9 11 43.75
r47 7 12 13.9682
r48 7 8 27.0833
r49 5 9 13.9682
r50 5 6 27.0833
r51 4 8 13.9682
r52 4 23 116.667
r53 1 6 13.9682
r54 1 22 77.0833
.ends

.subckt PM_AO22X1%D 3 6 7 9 12 15 22
c39 22 0 0.282456f
c40 15 0 0.0461923f
c41 12 0 0.155089f
c42 7 0 0.238665f
c43 6 0 0.350966f
c44 3 0 0.501724f
r45 18 22 27.7778
r46 15 18 7
r47 10 12 29.1667
r48 7 12 1.46822
r49 7 9 41.6667
r50 6 10 1.46822
r51 5 22 6.3741
r52 5 6 116.667
r53 1 22 6.3741
r54 1 3 145.833
.ends

.subckt PM_AO22X1%B 3 7 10 13 16 23
c37 23 0 0.200413f
c38 16 0 0.0398178f
c39 13 0 0.168009f
c40 10 0 0.346737f
c41 7 0 0.508986f
c42 3 0 0.257499f
r43 19 23 15.2778
r44 16 19 7
r45 11 13 29.1667
r46 10 13 1.46822
r47 9 23 6.3741
r48 9 10 125
r49 5 23 6.3741
r50 5 7 147.917
r51 1 11 1.46822
r52 1 3 54.1667
.ends

.subckt PM_AO22X1%A 3 7 10 12 15
c20 15 0 0.285379f
c21 12 0 0.0883398f
c22 10 0 0.0724436f
c23 7 0 0.740864f
c24 3 0 0.499661f
r25 12 15 7
r26 9 15 31.9444
r27 9 10 0.139
r28 5 10 14.6202
r29 5 7 204.167
r30 1 10 14.6202
r31 1 3 147.917
.ends

