* File: AO31X1.pex.netlist.pex
* Created: Mon Jun  5 11:21:11 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AO31X1%D_VDD 1 4 8 12 22 34 35 36
c28 36 0 0.286136f
c29 35 0 0.187164f
c30 34 0 0.17365f
c31 30 0 0.0701213f
c32 28 0 0.0701213f
c33 22 0 0.492965f
c34 12 0 0.629005f
c35 8 0 0.271502f
c36 4 0 0.428429f
c37 1 0 0.0701213f
r38 29 36 0.306944
r39 29 30 0.0120155
r40 27 35 0.207778
r41 27 28 0.0120155
r42 24 34 0.207778
r43 18 30 0.0329425
r44 13 28 0.0329425
r45 12 30 0.0329425
r46 8 28 0.0329425
r47 1 24 0.0120155
r48 1 4 0.0329425
r49 1 9 0.0329425
r50 1 22 0.1445
r51 1 18 0.1275
r52 1 12 0.068
r53 1 13 0.187
r54 1 8 0.1445
r55 1 9 0.102
r56 1 4 0.2295
.ends

.subckt PM_AO31X1%N$2 2 5 9 12 14 15 21 30 32 34 38 39 43
c54 43 0 0.247785f
c55 39 0 0.111231f
c56 38 0 0.186211f
c57 34 0 0.0606456f
c58 32 0 0.0226369f
c59 30 0 0.0472807f
c60 24 0 0.062859f
c61 21 0 0.11439f
c62 15 0 0.107111f
c63 14 0 0.0682833f
c64 12 0 0.324099f
c65 9 0 0.282665f
c66 5 0 0.901548f
c67 2 0 0.143134f
r68 33 43 13.0952
r69 33 40 3.57143
r70 32 34 0.0519666
r71 32 33 7
r72 29 39 0.132222
r73 29 30 0.0004726
r74 23 38 0.132222
r75 23 24 0.0297796
r76 19 21 0.085
r77 18 30 0.0497087
r78 18 34 0.2125
r79 16 24 0.015029
r80 15 30 0.0497087
r81 15 16 0.410833
r82 14 21 0.0142585
r83 14 28 0.155833
r84 12 24 0.0297796
r85 11 19 0.0142585
r86 11 12 0.61625
r87 7 43 8.22096
r88 7 9 58.3333
r89 3 40 8.22096
r90 3 5 275
r91 2 28 0.0755777
.ends

.subckt PM_AO31X1%D_GND 1 5 6 7 21 24 33 40
c32 40 0 0.402786f
c33 33 0 0.303537f
c34 24 0 0.764507f
c35 22 0 0.0701213f
c36 21 0 0.318906f
c37 7 0 0.141864f
c38 6 0 0.190619f
c39 5 0 0.232548f
c40 1 0 0.140243f
r41 21 22 0.0329425
r42 20 22 0.0329425
r43 12 22 0.0120155
r44 7 16 0.146389
r45 6 12 0.146389
r46 5 8 0.207778
r47 1 16 0.0120155
r48 1 33 0.0329425
r49 1 36 0.0329425
r50 1 8 0.0120155
r51 1 24 0.0329425
r52 1 30 0.0329425
r53 1 40 0.14875
r54 1 36 0.085
r55 1 33 0.2465
r56 1 20 0.034
r57 1 21 0.1615
r58 1 30 0.1105
r59 1 24 0.085
.ends

.subckt PM_AO31X1%AND_O 2 7 11 14 16 19 27 32 33 34 37 39 42
c65 42 0 0.358195f
c66 39 0 0.0717825f
c67 37 0 0.0859978f
c68 34 0 0.0672103f
c69 33 0 0.169063f
c70 32 0 0.0207774f
c71 27 0 0.0128917f
c72 26 0 0.0256247f
c73 19 0 0.151245f
c74 16 0 0.0825341f
c75 14 0 0.201124f
c76 11 0 0.216911f
c77 7 0 0.77812f
c78 2 0 0.120234f
r79 37 42 0.0566888
r80 33 39 15.2843
r81 32 34 0.0519666
r82 32 33 7
r83 27 29 0.0566667
r84 22 29 0.00499195
r85 22 34 0.155833
r86 20 26 0.00935391
r87 19 27 0.00499195
r88 19 20 0.283333
r89 17 26 0.0359928
r90 17 42 0.878333
r91 16 26 0.0359928
r92 15 25 0.0181392
r93 15 16 0.162917
r94 14 33 31.9444
r95 13 14 36.1176
r96 11 13 37.5
r97 7 39 233.333
r98 2 25 0.0463636
.ends

.subckt PM_AO31X1%N$16 2 5 9 13 14 16 17 18 20 22 27 30 32
c66 32 0 0.160494f
c67 30 0 0.227227f
c68 27 0 0.0251862f
c69 22 0 0.0595005f
c70 20 0 0.0678645f
c71 18 0 0.0233251f
c72 17 0 0.0597311f
c73 16 0 0.0190423f
c74 14 0 0.0191075f
c75 13 0 0.17651f
c76 9 0 0.21216f
c77 5 0 0.905599f
c78 2 0 0.064145f
r79 30 35 15.3561
r80 30 34 22.1743
r81 29 30 7
r82 27 29 0.0528846
r83 22 32 0.0519666
r84 19 27 0.0209436
r85 19 20 0.51
r86 17 27 0.0376684
r87 17 18 0.240833
r88 16 18 0.0474919
r89 16 26 0.0920833
r90 13 20 0.0474919
r91 13 14 0.453333
r92 11 14 0.0474919
r93 11 22 0.269167
r94 9 34 37.5
r95 5 35 275
r96 2 26 0.0519666
.ends

.subckt PM_AO31X1%OUT 2 6 9 15 18
c14 18 0 0.24724f
c15 15 0 0.119436f
c16 9 0 0.153599f
c17 6 0 0.256006f
c18 2 0 0.114563f
r19 15 18 0.0566888
r20 9 10 0.0159375
r21 7 9 0.06375
r22 6 10 0.0168885
r23 5 13 0.0196845
r24 5 6 0.474583
r25 3 7 0.0168885
r26 3 18 0.474583
r27 2 13 0.029755
.ends

.subckt PM_AO31X1%A 5 7 9 12 15 18 21
c25 21 0 0.14386f
c26 18 0 0.152349f
c27 15 0 0.02364f
c28 12 0 0.168131f
c29 7 0 0.259561f
c30 5 0 0.720684f
r31 18 22 15.22
r32 18 21 15.22
r33 15 18 7
r34 10 12 29.1667
r35 7 12 1.46822
r36 7 9 60.4167
r37 5 22 202.083
r38 1 10 1.46822
r39 1 21 45.8333
.ends

.subckt PM_AO31X1%B 3 7 10 13
c22 13 0 0.144477f
c23 10 0 0.0265715f
c24 7 0 0.737113f
c25 3 0 0.4367f
r26 13 17 15.2843
r27 13 16 15.2843
r28 10 13 7
r29 7 17 202.083
r30 3 16 131.25
.ends

.subckt PM_AO31X1%C 1 3 5 8 12 15 22
c26 22 0 0.175909f
c27 15 0 0.0339943f
c28 12 0 0.160948f
c29 8 0 0.705176f
c30 5 0 0.119639f
c31 1 0 0.259889f
r32 18 22 11.1111
r33 15 18 7
r34 10 12 29.1667
r35 6 22 6.3741
r36 6 8 202.083
r37 5 22 6.3741
r38 4 12 1.46822
r39 4 5 45.8333
r40 1 10 1.46822
r41 1 3 60.4167
.ends

.subckt PM_AO31X1%D 3 6 7 9 12 15 22
c30 22 0 0.27918f
c31 15 0 0.0420058f
c32 12 0 0.132197f
c33 7 0 0.298098f
c34 6 0 0.25135f
c35 3 0 0.588799f
r36 18 22 27.7778
r37 15 18 7
r38 10 12 20.8333
r39 7 12 1.46822
r40 7 9 75
r41 6 10 1.46822
r42 5 22 6.3741
r43 5 6 85.4167
r44 1 22 6.3741
r45 1 3 164.583
.ends

