* File: AO32X1.pex.netlist.pex
* Created: Mon Jun  5 11:27:12 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AO32X1%D_VDD 1 4 8 12 16 22 45 46 47 48 49
c42 49 0 0.239012f
c43 48 0 0.149137f
c44 47 0 0.24992f
c45 46 0 0.214024f
c46 45 0 0.205669f
c47 36 0 0.190787f
c48 35 0 0.0701213f
c49 30 0 0.0701213f
c50 22 0 0.269938f
c51 16 0 0.613535f
c52 12 0 0.510251f
c53 8 0 0.277759f
c54 4 0 0.433133f
c55 1 0 0.140243f
r56 36 49 0.17
r57 34 48 0.17
r58 34 35 0.0120155
r59 31 47 0.306944
r60 29 46 0.236111
r61 29 30 0.0120155
r62 26 45 0.236111
r63 23 35 0.0329425
r64 16 35 0.0329425
r65 13 30 0.0329425
r66 8 30 0.0329425
r67 1 36 0.0246004
r68 1 22 0.0230629
r69 1 31 0.0120155
r70 1 12 0.0329425
r71 1 17 0.0329425
r72 1 26 0.0120155
r73 1 4 0.0329425
r74 1 9 0.0329425
r75 1 22 0.2125
r76 1 23 0.034
r77 1 16 0.0255
r78 1 17 0.221
r79 1 12 0.2465
r80 1 13 0.187
r81 1 8 0.1445
r82 1 9 0.102
r83 1 4 0.2295
.ends

.subckt PM_AO32X1%N$2 2 5 8 11 14 18 19 21 22 23 26 32 33 37 41 42 50
c69 50 0 0.0641903f
c70 42 0 0.123623f
c71 41 0 0.145746f
c72 37 0 0.154338f
c73 33 0 0.00504588f
c74 32 0 0.046251f
c75 26 0 0.137264f
c76 23 0 0.0925761f
c77 22 0 0.0359168f
c78 21 0 0.17393f
c79 20 0 0.0667468f
c80 19 0 0.103771f
c81 18 0 0.0526815f
c82 14 0 0.167781f
c83 11 0 0.936419f
c84 8 0 0.156948f
c85 5 0 0.205619f
c86 2 0 0.153933f
r87 41 50 0.0755777
r88 37 44 16.1615
r89 36 38 0.0519666
r90 36 37 7
r91 33 36 0.0141667
r92 31 42 0.151111
r93 31 32 0.0004726
r94 26 38 0.502917
r95 24 32 0.0497087
r96 23 26 0.0474919
r97 23 24 0.205417
r98 21 33 0.0216719
r99 21 22 0.68
r100 19 32 0.0497087
r101 19 20 0.410833
r102 18 22 0.0474919
r103 18 30 0.134583
r104 15 20 0.0474919
r105 15 50 0.1275
r106 13 14 18.9393
r107 11 44 247.917
r108 8 37 4.16667
r109 8 14 14.3519
r110 5 13 37.5
r111 2 30 0.0755777
.ends

.subckt PM_AO32X1%D_GND 1 6 7 8 9 27 30 33 36 55
c49 55 0 0.444949f
c50 37 0 0.0701213f
c51 36 0 0.317916f
c52 34 0 0.0701213f
c53 33 0 0.323049f
c54 31 0 0.0688308f
c55 30 0 0.478196f
c56 28 0 0.0701213f
c57 27 0 0.744621f
c58 9 0 0.172094f
c59 8 0 0.261187f
c60 7 0 0.103826f
c61 6 0 0.224356f
r62 36 37 0.0329425
r63 35 37 0.0329425
r64 33 34 0.0329425
r65 32 34 0.0329425
r66 30 31 0.0329425
r67 29 31 0.0329425
r68 27 28 0.0329425
r69 26 28 0.0329425
r70 22 37 0.0120155
r71 18 34 0.0120155
r72 14 31 0.0120155
r73 10 28 0.0120155
r74 9 22 0.174722
r75 8 18 0.240833
r76 7 14 0.240833
r77 6 10 0.236111
r78 1 55 0.13175
r79 1 35 0.119
r80 1 36 0.2125
r81 1 32 0.0595
r82 1 33 0.136
r83 1 29 0.1445
r84 1 30 0.051
r85 1 26 0.13175
r86 1 27 0.06375
.ends

.subckt PM_AO32X1%AND_O1 2 3 8 9 11 12 17 19 27 28 34
c57 34 0 0.288699f
c58 28 0 0.215799f
c59 27 0 0.0866811f
c60 19 0 0.213201f
c61 17 0 0.167907f
c62 12 0 0.382018f
c63 9 0 0.332278f
c64 8 0 0.789965f
c65 3 0 0.221955f
r66 27 34 0.0566888
r67 23 28 12.5
r68 22 23 7
r69 19 34 0.984583
r70 15 17 25
r71 12 14 29.2982
r72 9 17 1.46822
r73 9 11 79.1667
r74 8 14 25
r75 6 15 1.46822
r76 6 8 241.667
r77 4 28 6.3741
r78 3 12 12.5993
r79 3 4 77.0833
r80 2 19 0.106196
r81 2 22 0.0703448
.ends

.subckt PM_AO32X1%OUT 2 7 9 11
c24 11 0 0.167641f
c25 7 0 0.0868127f
c26 2 0 0.170364f
r27 7 11 0.401389
r28 7 9 0.0988119
r29 3 9 0.0381409
r30 2 3 0.264444
.ends

.subckt PM_AO32X1%N$27 2 5 8 9 11 14 16 19 22 24 25 26 35 37 44
c57 44 0 0.0482914f
c58 37 0 0.16319f
c59 35 0 0.0303029f
c60 26 0 0.0409757f
c61 25 0 0.0378659f
c62 24 0 0.127202f
c63 22 0 0.0575272f
c64 19 0 0.242447f
c65 16 0 0.140676f
c66 14 0 0.179138f
c67 9 0 0.245167f
c68 8 0 0.594077f
c69 5 0 0.321606f
c70 2 0 0.0689331f
r71 37 44 0.0517479
r72 27 44 0.17
r73 25 27 0.0474919
r74 25 26 0.10625
r75 24 26 0.0474919
r76 23 35 0.0497087
r77 23 24 0.389583
r78 22 35 0.0497087
r79 22 34 0.162917
r80 19 38 20.8333
r81 18 19 7
r82 16 35 0.0004726
r83 16 18 0.2125
r84 12 14 29.1667
r85 9 14 1.46822
r86 9 11 45.8333
r87 8 12 1.46822
r88 7 38 6.3741
r89 7 8 197.917
r90 3 38 6.3741
r91 3 5 72.9167
r92 2 34 0.0519666
.ends

.subckt PM_AO32X1%AND_O2 2 5 8 12 13 14 17 19 20 25 27 34
c39 34 0 0.265614f
c40 27 0 0.0863007f
c41 25 0 0.0251885f
c42 20 0 0.113667f
c43 19 0 0.15123f
c44 17 0 0.198512f
c45 14 0 0.190032f
c46 13 0 0.412142f
c47 12 0 0.2811f
c48 8 0 0.471413f
r49 27 34 0.0566888
r50 21 25 0.0497087
r51 21 34 0.694167
r52 20 25 0.0497087
r53 19 20 0.255
r54 17 28 12.5
r55 16 17 7
r56 14 25 0.0004726
r57 14 16 0.193611
r58 12 13 16.6389
r59 10 28 6.3741
r60 10 12 87.5
r61 6 28 6.3741
r62 6 8 116.667
r63 5 13 79.1667
r64 2 19 0.17641
.ends

.subckt PM_AO32X1%N$17 2 3 5 8 11 12 13 14 19 25 31 35
c43 35 0 0.0647399f
c44 31 0 0.0722579f
c45 25 0 0.00748786f
c46 19 0 0.0412123f
c47 14 0 0.0772666f
c48 13 0 0.0147705f
c49 12 0 0.161693f
c50 11 0 0.0740376f
c51 8 0 0.902165f
c52 3 0 0.590985f
c53 2 0 0.11439f
r54 31 35 0.0566888
r55 24 25 0.0377999
r56 21 24 0.0236111
r57 21 22 7
r58 19 29 0.0991667
r59 16 35 0.198333
r60 14 16 0.0474919
r61 14 25 0.19125
r62 12 19 0.0474919
r63 12 13 0.439167
r64 11 24 0.0216719
r65 10 13 0.0474919
r66 10 11 0.715417
r67 6 22 15.6208
r68 6 8 291.667
r69 3 22 34.3708
r70 3 5 41.6667
r71 2 29 0.0566888
.ends

.subckt PM_AO32X1%A 5 7 9 12 15 18 21
c23 21 0 0.1134f
c24 18 0 0.173904f
c25 15 0 0.0130068f
c26 12 0 0.122318f
c27 7 0 0.254116f
c28 5 0 0.719435f
r29 18 22 15.22
r30 18 21 15.22
r31 15 18 7
r32 10 12 18.75
r33 7 12 1.46822
r34 7 9 58.3333
r35 5 22 189.583
r36 1 10 1.46822
r37 1 21 35.4167
.ends

.subckt PM_AO32X1%B 3 9 11 12 14 17
c28 17 0 0.144199f
c29 14 0 0.0174573f
c30 12 0 0.107985f
c31 11 0 0.188898f
c32 9 0 0.430161f
c33 3 0 0.384115f
r34 17 21 15.2843
r35 17 20 15.2843
r36 14 17 7
r37 11 12 17.6176
r38 11 21 60.4167
r39 9 12 104.167
r40 3 20 118.75
.ends

.subckt PM_AO32X1%C 1 3 5 8 12 15 23
c32 23 0 0.18901f
c33 15 0 0.0158742f
c34 12 0 0.145248f
c35 8 0 0.70758f
c36 5 0 0.104479f
c37 1 0 0.258681f
r38 22 23 8.33333
r39 18 22 2.77778
r40 15 18 7
r41 10 12 27.0833
r42 6 23 6.3741
r43 6 8 189.583
r44 5 22 6.3741
r45 4 12 1.46822
r46 4 5 35.4167
r47 1 10 1.46822
r48 1 3 58.3333
.ends

.subckt PM_AO32X1%E 2 5 7 9 12 15 18
c30 18 0 0.224902f
c31 15 0 0.0410507f
c32 12 0 0.136917f
c33 7 0 0.204408f
c34 5 0 0.537509f
c35 2 0 0.437449f
r36 18 20 19.4444
r37 15 18 7
r38 10 12 25
r39 7 12 1.46822
r40 7 9 41.6667
r41 3 20 6.3741
r42 3 5 147.917
r43 2 20 6.3741
r44 1 10 1.46822
r45 1 2 150
.ends

.subckt PM_AO32X1%D 1 3 6 14 16 17 19 22 25
c21 25 0 0.527807f
c22 22 0 0.149875f
c23 19 0 0.0559788f
c24 17 0 0.131891f
c25 16 0 0.118164f
c26 14 0 0.110615f
c27 6 0 0.393329f
c28 1 0 0.202342f
r29 22 26 15.2843
r30 22 25 15.2843
r31 19 22 7
r32 16 17 17.6176
r33 16 26 33.3333
r34 12 14 14.5833
r35 8 14 1.46822
r36 8 25 150
r37 6 17 89.5833
r38 1 12 1.46822
r39 1 3 41.6667
.ends

