* File: BUF1X4.pex.netlist.pex
* Created: Thu Jul 13 08:21:19 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUF1X4_D_VDD 1 4 9 24 25
c13 25 0 0.335534f
c14 24 0 0.256209f
c15 21 0 0.0701213f
c16 9 0 0.281088f
c17 4 0 0.445633f
c18 1 0 0.262099f
r19 20 25 0.288056
r20 20 21 0.0120155
r21 17 24 0.325833
r22 13 21 0.0329425
r23 9 21 0.0329425
r24 1 17 0.0120155
r25 1 4 0.0329425
r26 1 10 0.0329425
r27 1 13 0.034
r28 1 9 0.1615
r29 1 10 0.0935
r30 1 4 0.25075
.ends

.subckt PM_BUF1X4_N$2 2 5 7 9 10 14 17 22 31 36
c34 36 0 0.186822f
c35 31 0 0.132586f
c36 29 0 0.0675403f
c37 22 0 0.124565f
c38 17 0 0.329648f
c39 14 0 0.400334f
c40 10 0 0.257724f
c41 7 0 0.644262f
c42 5 0 0.660088f
c43 2 0 0.121931f
r44 31 36 0.0408015
r45 22 23 7
r46 20 29 0.00935391
r47 20 22 0.217222
r48 18 29 0.0359928
r49 18 36 0.203056
r50 17 29 0.0359928
r51 17 28 0.363611
r52 12 14 91.6667
r53 11 23 19.8807
r54 10 12 13.9682
r55 10 11 58.3333
r56 7 11 11.4948
r57 7 9 83.3333
r58 3 23 15.2224
r59 3 5 185.417
r60 2 28 0.0375095
.ends

.subckt PM_BUF1X4_D_GND 1 3 9
c11 9 0 0.44989f
c12 3 0 0.291499f
c13 1 0 0.686713f
r14 3 4 0.184167
r15 1 4 0.0120155
r16 1 9 0.0329425
r17 1 14 0.0329425
r18 1 14 0.2295
r19 1 9 0.238
.ends

.subckt PM_BUF1X4_OUT 2 9 13
c14 13 0 0.17003f
c15 9 0 0.0906705f
c16 2 0 0.493638f
r17 11 13 0.1955
r18 9 11 0.0342223
r19 9 10 0.0342223
r20 2 10 0.4335
.ends

.subckt PM_BUF1X4_IN 3 7 10 13
c22 13 0 0.157135f
c23 10 0 0.0247455f
c24 7 0 0.644309f
c25 3 0 0.449f
r26 13 17 15.22
r27 13 16 15.22
r28 10 13 7
r29 7 17 181.25
r30 3 16 114.583
.ends

